US07638541B2
Step 2: 5-Ethyl-2-{4-fluoro-4-[4-(4-methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine
A solution of 4-fluoro-4-[4-(4-methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidine hydrochloride (4.0 g, 9.01 mmol), 2-chloro-5-ethyl-pyrimidine (1.55 g, 1.2 eq.) and DIPEA (4.7 g, 4 eq.) in 2-propanol (30 mL) in a sealed pressure vessel was stirred at 160° C. (oil bath temperature) overnight. After cooling, the solvent was removed in vacuo. The residue was partitioned between water and EtOAc. The organic phase was washed with brine and dried over Na2SO4. After removal of the solvent, the crude product was purified on silica gel (EtOAc:hexanes=1:1) to afford the desired product as a white solid. 1H NMR (CDCl3): δ 8.19 (2H, s), 7.87 (2H, d, J=9.2 Hz), 7.36 (1H, s), 7.10 (2H, d, J=9.2 Hz), 5.23 (2H, s), 4.69 (2H, m), 3.44 (2H, m), 3.03 (3H, s), 2.48 (2H, q, J=7.6 Hz), 2.15˜2.39 (4H, m), 1.21 (3H, t, J=7.6 Hz).

reactant | 4-fluoro-4-[4-(4-methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidine hydrochloride | 9.01 mmol, 4.0 g | Cl.FC1(CCNCC1)C=1SC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)C
reactant | 2-chloro-5-ethyl-pyrimidine | 1.55 g, 1.2 eq. | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIPEA | 4.7 g, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | 5-Ethyl-2-{4-fluoro-4-[4-(4-methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine | C(C)C=1C=NC(=NC1)N1CCC(CC1)(C=1SC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)C)F | C22H25FN4O3S2
